US03943127
To a solution of 1.54 g (0.004 mol) of 7-amino-3-(1-methyl-1,2,3,4-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid, t-butyl ester and 0.825 g (0.004 mol) of dicyclohexylcarbodiimide in 50 ml of benzene was added 0.704 g (0.004 mol) of trifluoromethylsulfinylacetic acid. The reaction mixture was stirred at 25° for 2 hr., then it was filtered and adsorbed onto 4 g of silica gel. Chromatography on 100 g of silica gel with 50:50 benzene-ethyl acetate gave 1.55 g (69 percent) of 7-trifluoromethylsulfinylacetamido-3-(1-methyl-1,2,3,4-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid, t-butyl ester as a white foam. The ester was dissolved in 9 ml of trifluoroacetic acid and stirred at 25° for 5 minutes, then added dropwise to 200 ml of ether. The precipitate was collected, dissolved in 5 percent sodium bicarbonate and the solution was diluted to 150 ml. After extraction with ethyl acetate the aqueous phase was acidified to pH 1.5 and extracted thrice more with ethyl acetate. The combined extracts were dried (MgSO4) and concentrated to 35 ml, to which residue (the free acid) was added a solution of 1.5 of 30 percent sodium 2-ethylhexanoate in isopropanol followed by 200 ml of ether. The precipitated salt was collected, reprecipitated from methanol-ether and dried in vacuo to give 0.680 g of product.

reactant | 7-amino-3-(1-methyl-1,2,3,4-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid, t-butyl ester | 0.004 mol, 1.54 g | NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)OC(C)(C)C)C1=O | C14H20N6O3S2
reactant | dicyclohexylcarbodiimide | 0.004 mol, 0.825 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | trifluoromethylsulfinylacetic acid | 0.004 mol, 0.704 g | FC(S(=O)CC(=O)O)(F)F | C3H3F3O3S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 7-trifluoromethylsulfinylacetamido-3-(1-methyl-1,2,3,4-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylic acid, t-butyl ester | 1.55 g, 69 percent | FC(S(=O)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)OC(C)(C)C)C1=O)(F)F | C17H21F3N6O5S3
